US06660756B2
1-[(2S)-2-(tert-Butoxycarbonyl)-4-methoxybutyl]cyclopentanecarboxylic acid
To a solution of the product from Preparation 68 (3.90 kg, 13.0 mol) in heptane (58.5 L, total solution weight 44.0 kg) was added (1S, 2S)-(+)-pseudoephedrine (2.13 kg, 12.9 mol) under an atmosphere of nitrogen at 20° C. The suspension was then heated to 70° C. with stirring until a clear solution was obtained. The solution was then cooled to 40° C. and a sample of authentic crystallised title compound (0.8 g) was added to seed the crystallisation. The temperature of the mixture was maintained at 40° C. for 2 hours and then the slurry was cooled to 20° C. over 6 hours. The product was then collected by filtration and was washed with heptane (2×2.3 L) then dried under vacuum for 22 hours at 50° C. to give (1 S, 2S)-1-hydroxy-N-methyl-1-phenyl-2-propanaminium 1-[(2S)-2-(tert-butoxy carbonyl)-4-methoxybutyl]cyclopentane carboxylate (3.20 kg, 6.87 mol, 53% yield as an 86:14 mixture of diastereoisomeric salts as measured by 1H NMR). The product (3.20 kg, 6.87 mol) was then suspended in heptane (30 L) and heated to 70° C. until a clear solution was obtained. The resultant solution was then cooled to 58° C. and a sample of authentic crystallised title compound (1.0 g) was added to seed the crystallisation. The solution was then held at 58° C. for 1 hour and was then cooled to 20° C. over 6 hours. The slurry was then granulated at 20° C. for 12 hours. The product was then collected by filtration and was washed with heptane (2×2 L). Drying in a vacuum oven at 50° C. for 22.5 hours gave (1S, 2S)-1-hydroxy-N-methyl-1-phenyl-2-propanaminium 1-[(2S)-2-(tert-butoxycarbonyl)-4-methoxybutyl]cyclopentane carboxylate as a white crystalline solid (2.35 kg, 5.0 mol, 73% yield). m.p. (heptane); 95° C.; 1H-NMR (CDCl3, 300 MHz), δ: 1.08 (d, 3H), 1.48 (s, 10H), 1.56-1.74 (m, 4H), 1.74-1.90 (m, 2H), 1.90-2.03 (m, 2H), 2.03-2.27 (m, 2H), 2.4-2.53 (m, 1H), 2.66 (s, 3H), 3.08 (dq, 1H), 3.24 (s, 3H), 3.38 (q, 2H), 4.58 (d, 1H), 7.27-7.45 (m, 5H), 7.70 (s, br, 3H); Anal. found C, 67.06; H, 9.35; N, 3.04; C26H43NO6 requires C, 67.07; H, 9.31; N, 3.01%. The title compound was obtained by breaking the salt as follows. To a stirred suspension of (1S, 2S)-1-hydroxy-N-methyl-1-phenyl-2-propanaminium 1-[(2S)-2-(tert-butoxycarbonyl)-4-methoxybutyl]cyclopentane carboxylate (210 g, 0.45 mol) in deionised water (1.26 L) and isopropyl acetate (1.47 L) was added aqueous hydrochloric acid (99.5 ml of a 5 M solution, 0.50 mol) until the pH of the aqueous layer was between pH 2 and 3. The layers were then separated, and the aqueous phase was extracted with isopropyl acetate (630 ml). The organic extracts were then combined and washed with saturated brine solution (420 ml). The organic phase was then concentrated by distillation at atmospheric pressure (to remove 1.4 L of isopropyl acetate) to give the title compound as a solution in isopropyl acetate which was used directly in the next step. An aliquot can be taken and the solvent removed to give an analytical sample; 1H NMR (CDCl3 300 MHz) δ: 1.44 (s, 9H), 1.48-1.59 (m, 2H), 1.59-1.72 (m, 5H), 1.72-1.93 (m, 2H), 2.03-2.18 (m, 3H), 2.35-2.46 (m, 1H), 3.31 (s, 3H), 3.38 (t, 2H); LRMS (El): m/z 244 [M−C4H8]+, 227 [M−C4H9O]+, 199 [M−C4H9O2C]+; GC (injector program: initial temp. 0° C., rate 150° C./min, final temp. 230° C.; oven program: initial temp. 100° C., rate 10° C./min, final temp. 230° C., final time 20 min; column, BP-21 25 m×0.25 mm ID x 0.25 um FT; detection FID) Retention Time 16.0 min; HPLC (column: ChiralPak AD (25×0.46 cm); mobile phase: hexane/IPA/acetic acid (98/2/0.1 v/v/v); Rinsing mobile phase: hexane/IPA/DEA (80/20/0.5 v/v/v); flow rate: 1.0 ml/min; temperature: ambient; injection volume: 20 μI; detection: ELSD) Run time: 20 mins followed by 10 mins rinse with hexane/IPA/acetic acid (98/2/0.1 v/v/v), followed by 10 mins rinse with hexane/IPA/acetic acid (98/2/0.1 v/v/v); Retention Time: minor enantiomer 15.5 min (3.3%), major enantiomer 17.5 min (96.7%).

reactant | (1S, 2S)-1-hydroxy-N-methyl-1-phenyl-2-propanaminium 1-[(2S)-2-(tert-butoxycarbonyl)-4-methoxybutyl]cyclopentane carboxylate | 0.45 mol, 210 g | C(C)(C)(C)OC(=O)[C@@H](CC1(CCCC1)C(=O)[O-])CCOC.O[C@H]([C@H](C)[NH2+]C)C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1.26 L | O | H2O
solvent | isopropyl acetate | 1.47 L | C(C)(=O)OC(C)C | C5H10O2
product | 1-[(2S)-2-(tert-Butoxycarbonyl)-4-methoxybutyl]cyclopentanecarboxylic acid | C(C)(C)(C)OC(=O)[C@@H](CC1(CCCC1)C(=O)O)CCOC | C16H28O5
